data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3153,"C1=CC=C(OC2=CC(C[OH:1])=CC=C2)C=C1.CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCCC(F)=C(F)F|(1, 2)"
train,pmechdb_split_0,0,1076,"C1=CC2=C(C=C1)C(CC[NH2:1])=CN2.CC(C)(C)OC(=O)[C:2](C(=O)CC1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4287,"O[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,8350,"CCCC1=CC=C[N+:1]([CH:2]2CC(O)C(COCC)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4493,"CC1CC[CH2:1][C:2]([CH2:3][N+:4]#N)([OH:5])C1.O.[Cl-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7,"CC(CCC1CCCC1)[O+:1](S([O-])(Cl)Cl)[H:2].CC(CCC1CCCC1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6597,"BrBr.CC(=O)[O-].CC(C)(C)C1CC2OC(=O)C34CC=CC23C1(C[CH:1]=[O+:2]C)C([OH:3])O4|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4441,"CC(C)[CH2][AlH:1][CH2]C(C)C.CC[CH2:2][Li:3]|((3, 2), 1)"
train,pmechdb_split_0,0,6882,"C[CH+]C[Si:1](C)(C)C.C[O:2][Ti-]|(2, 1)"
train,pmechdb_split_0,0,2128,"CCC[C:1]#[C:2]OC.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5633,"CCC1([C:1](=[CH2:2])[OH:3])OCC([CH:4]=[OH+:5])O1|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7983,"CCN(CC)[C:1](=[CH:2]CC1=CC=CC=C1)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1355,"CC(C)(C)C(=O)[O-:1].CCO.CCOC(C)(OCC)[O+:2](CC1=CC(O[Si](C)(C)C(C)(C)C)C2(C)C(=O)OCC12C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1471,"CC[N+:1](C)(C)[H:2].[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5429,"CC(=O)N(CC[O-:1])CC12CCC34OC3(CC(O[Si](C)(C)C(C)(C)C)C3CC(O[Si](C)(C)C(C)(C)C)CCC34)[C:2]1=[CH:3][C:4](=[O:5])C2=O.CC(C)(C)[Si](C)(C)F.CN(C)S(N(C)C)=[N+](C)C.C[Si](C)(C)F|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5234,"C1=CC=[NH+]C=C1.COC(=O)C[C:1]1=[O+:2][CH:3]([H:4])[CH:5]=[C:6]1C(=O)OC.[Cl-].[OH2:7]|(7, 4);((4, 3), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7391,"CC(=O)[O-].CC(C)(C)[OH:1].CCN(CC)CC.CN(C)C1=CC=[N+]([C:2](CC2=CC=CC=C2)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8119,"F[B:1](F)F.SC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,2306,"CN1C2=CC=C(C(O)[O+:1](O)[H:2])C=C2C2=C1C=CC=C2.C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8836,"C=[O+:1][Si-:2](C)(C)(C)N(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,7376,"CC(=O)[O-:1].CC(O)[N+:2](C)(C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3451,"CO[C:1](C)([OH+:2]C)[O:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7119,"CC(O)C[CH:1](C)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7511,"COC1=C([NH2:1])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.O.[Cl-].[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5961,"CC(C)[C:1]1([H:2])C=C([N+](=O)[O-])O[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1860,"O=CCOC(CO)[O+:1](CC=O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6874,"COC(=O)C1(C)CCCC2(C)C3C[CH:1]4[C+:2](C)CC3(CCC12)C[CH2:3]4.O.O=C[O-]|((1, 3), 2)"
train,pmechdb_split_0,0,17,"CC(CC(=O)C1=C(F)C=CC=C1)(C1=C(F)C=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7996,"C=C[CH:1](C)[Mg:2][Br].C[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,535,"COC(=O)C(C(=O)OC)[CH:1]1C(C)(C)[O:2]1.COC(=O)[CH-:3]C(=O)OC.O=C([O-])O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6867,"CC(C)[C:1]1([H:2])OC=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3255,"C1=C[C:1](=[O:2])OCC1.[K][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5856,"CCOC(=O)CCCCC(C=CC1C(O[Si](C)(C)C(C)(C)C)CC(=O)C1CCC(=O)OCC)[O:1][S:2]C1=CC=CC=C1.CO.CO[P:3](OC)OC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7640,"[CH:1](=[S:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6820,"COC(=O)C(C)=CN(CCC1=CC=C(OC)C(OC)=C1)C(=O)[CH:1]([H:2])[S+:3](C)O.CS(=O)(=O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2584,"CCNC(CCC(C)=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1742,"BrC(Br)Br.FC1=CC=CC(C#CCO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])=C1|((1, 2), 2)"
train,pmechdb_split_0,0,4351,"COC1=C2OC3C45CCN(CC6CC6)C(CC(=C24)C=C1)C5(O)CC[C:1]3=[O:2].N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2033,"CC(=O)[O-].CC[N:1](CC)CC.CC[NH+](CC)CC.COC1=C(O)C=C(C=O)C=C1.COC1=CC([CH:2]([H:3])[C:4](OC(C)=O)=[O:5])=CC(OC)=C1OC|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7805,"CC(=O)C[CH:1]([H:2])[C:3](C)=[NH+:4]C1=NNC=C1.CC(=O)[O-:5].O|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9791,"O=S(=O)(O)[O:1][H:2].OC1(O)CCCC[O:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6836,"CC[O+:1](C1CCCCO1)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7573,"[Br:1][Br:2].[O-]CCCC[CH:3]=[CH:4][O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,707,"CC[N:1](CC)CC.CC[O+:2]([Si-](C)(C)(C)Cl)[H:3]|(1, 3);((3, 2), 2)"
